simulator lang=spectre
global 0

ahdl_include "../source/va/strongarm_cmp.va"

VCLK (clk 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=10p fall=10p width=2n period=5n
VINP (vinp 0) vsource dc=0.905
VINN (vinn 0) vsource dc=0.895
ROUT (out 0) resistor r=1T
RREADY (ready 0) resistor r=1T

IDUT (vinp vinn out ready clk) strongarm_cmp \
    T0_S=100p TAU_S=20p V_LOGIC=1.8 OFFSET_V=0 NOISE_SIGMA_V=0 \
    V_MIN=1u MAX_WAIT_S=2n SEED=1 TR_S=10p

tran tran stop=12n maxstep=5p
save clk out ready vinp vinn

